US06852731B2
(1R)-2-(Methylamino)-1-pyrimidin-2-ylethanol Dihydrochloride
A 6 N solution of aq. HCl (5 mL) was added to tert-butyl (2R)-2-hydroxy-2-pyrimidin-2-ylethyl(methyl)carbamate (1.17 g) at room temperature. After 2.5 h, reaction mixture was concentrated in vacuo using 3×10 mL portions of ethanol to assist in water removal. The oil was dissolved in ethanol, heated to ca. 50° C. and THF was added until slightly turbid at this temperature. The solution was allowed to cool to room temperature. The resulting solid was collected by filtration and washed with ethanol/THF (50/50) followed by diethyl ether to afford 0.78 g of the title compound.

reactant | HCl | 5 mL | Cl | ClH
reactant | tert-butyl (2R)-2-hydroxy-2-pyrimidin-2-ylethyl(methyl)carbamate | 1.17 g | O[C@H](CN(C(OC(C)(C)C)=O)C)C1=NC=CC=N1 | C12H19N3O3
product | (1R)-2-(Methylamino)-1-pyrimidin-2-ylethanol Dihydrochloride | 0.78 g | Cl.Cl.CNC[C@@H](O)C1=NC=CC=N1 | InChI=1S/C7H11N3O.2ClH/c1-8-5-6(11)7-9-3-2-4-10-7;;/h2-4,6,8,11H,5H2,1H3;2*1H/t6-;;/m1../s1
